US07645784B2
A solution of potassium tert-butoxide (0.6 mmol) in THF (0.6 mL) was added to a solution of 1H-benzoimidazole (71 mg, 0.6 mmol) in dioxane (15 mL) under stirring. tert-Butyl bromoacetate (97 mg, 0.5 mmol) was added to the white suspension and the mixture was stirred overnight at ambient temperature. The solvents were removed in vacuum and the product was purified on a silica gel column using a gradient of ethyl acetate in heptane) to afford benzimidazol-1-yl-acetic acid tert-butyl ester (110 mg, 95%). Mass spectrum (ESI) m/z: 233.0. 1H NMR (400 MHz, MeOD) δ ppm 1.5 (s, 9 H), 5.0 (s, 2 H), 7.3 (m, 2H), 7.4 (d, J=7.1 Hz, 1H), 7.7 (d, J=6.6 Hz, 1H), 8.1 (s, 1H).

reactant | potassium tert-butoxide | 0.6 mmol | CC(C)([O-])C.[K+]
reactant | 1H-benzoimidazole | 0.6 mmol, 71 mg | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | tert-Butyl bromoacetate | 0.5 mmol, 97 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | benzimidazol-1-yl-acetic acid tert-butyl ester | 110 mg, 95% | C(C)(C)(C)OC(CN1C=NC2=C1C=CC=C2)=O | C13H16N2O2
